US04845219
2-Methoxy-3-octadecyloxypropyl vinyl sulfone
Into 10 ml of toluene containing 2 g of trimethylamine is dissolved 1.0 g of 2-mesyloxyethyl 2-methoxy-3-octadecyloxypropyl sulfone and the solution is stirred at room temperature for 6 hours. Then 30 ml of hexane is added to the mixture and precipitates are removed by filtration. The filtrate is concentrated to give 0.6 g of the captioned compound as colorless crystals (m.p.47°-49° C.).

reactant | toluene | 10 ml, 2 g | C1(=CC=CC=C1)C | C7H8
reactant | trimethylamine | CN(C)C | C3H9N
reactant | 2-mesyloxyethyl 2-methoxy-3-octadecyloxypropyl sulfone | 1.0 g | COC(CS(=O)(=O)CCOS(=O)(=O)C)COCCCCCCCCCCCCCCCCCC | C25H52O7S2
solvent | hexane | 30 ml | CCCCCC | C6H14
product | 2-Methoxy-3-octadecyloxypropyl vinyl sulfone | 0.6 g | C(=C)S(=O)(=O)CC(COCCCCCCCCCCCCCCCCCC)OC | C24H48O4S
